US04618710
N-benzenesulfonylalanine was prepared by mixing equimolar quantities of alanine and benzenesulfonyl chloride at 60° C. in aqueous sodium hydroxide (200 mol%). A 95% yield was obtained. The method is set out in the previously mentioned book "Chemistry Of The Amino Acids".

reactant | alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | sodium hydroxide | [OH-].[Na+]
product | N-benzenesulfonylalanine | 95% yield | C1(=CC=CC=C1)S(=O)(=O)N[C@@H](C)C(=O)O | C9H11NO4S
